US04101536
A solution of 1.0 g of 2-tetradecylhexadecanoic acid and 0.79 g of thionyl chloride in 5 ml of benzene was refluxed for 7 hours. After removal of benzene and thionyl chloride, anhydrous benzene was added to the residue and then benzene was removed by distillation. This procedure was repeated 3 times to remove thionyl chloride completely. The residue was recrystallized from anhydrous hexane to obtain 0.75 g of 2-tetradecylhexadecanoyl chloride having a melting point of 51°-53° C. To the solution of 0.85 g of 1-α-O-benzyl-N-acetylmuramyl-L-alanyl-D-isoglutamine benzyl ester in 35 ml of anhydrous pyridine, was added 4.9 g of 2-tetradecylhexadecanoyl chloride dissolved in 35 ml of anhydrous tetrahydrofuran at 17°-18° C. After 45 minutes, 20 ml of water was added and the solution was stirred for 35 minutes at room temperature. The solution was adjusted to pH 3 with 1 M hydrochloric acid and extracted with chloroform. The chloroform solution was washed with saturated brine, and dried. After removal of solvent, the residue was subjected to silica gel column chromatography. Eluate with a mixture of chloroform and methanol (20:1) was concentrated and the residue was recrystallized from methanol to obtain 0.75 g of 6-O-(2-tetradecylhexadecanoyl)-1-α-O-benzyl-N-acetylmuramyl-L-alanyl-D-isoglutamine benzyl ester having a melting point of 173°-174° C.

reactant | 2-tetradecylhexadecanoic acid | 1.0 g | C(CCCCCCCCCCCCC)C(C(=O)O)CCCCCCCCCCCCCC | C30H60O2
reactant | thionyl chloride | 0.79 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-tetradecylhexadecanoyl chloride | 0.75 g | C(CCCCCCCCCCCCC)C(C(=O)Cl)CCCCCCCCCCCCCC | C30H59ClO
